data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_350005_1,[C:1]1([O:6][C:4]([C:3]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([H:10])[C:2]([O:8][H:9])([H:11])[O:7]1>>[C:1]([C:2]([O:6][C:4]([C:3]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([O:8][H:9])[H:11])(=[O:7])[H:10],35.11552750001556
MR_176545_0,[C:1]([C:5](=[C:7]([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])/[N:9]=[C:6](\[C:2]([H:15])([H:16])[H:17])[N:8]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1=[N:9][C:6]([C:2]([H:15])([H:16])[H:17])([N:8]([H:10])[H:11])[C:7]1([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])([H:12])([H:13])[H:14],39.60780000001648
MR_550213_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[N:4]([C:6]([N:7]([H:10])[H:11])=[O:8])[N:5]1[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[N:4]/[C:6]([N:7]([H:10])[H:11])=[O:8])[N:5]([C:2]([H:12])([H:13])[H:14])[H:9],57.75321750000302
MR_98845_1,[C@:1]([N:5]([C:2]([H:13])([H:14])[H:17])[C:3]([H:15])([H:16])[H:18])([N:6]([H:10])[H:11])(/[N:8]=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:12])[H:9]>>[C:1](\[N:6]([H:10])[H:11])(=[N:8]/[C@@:7]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:17])[C:3]([H:15])([H:16])[H:18])[H:12])[H:9],47.3360900000155
MR_283469_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:5]1([N:6]([H:10])[H:11])[C:8]([H:13])=[C:7]([H:12])[O:9]1>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])/[C:5]([N:6]([H:10])[H:11])=[C:8](\[C:7](=[O:9])[H:12])[H:13],2.8243775000029814
MR_393146_0,[C:1]([C:4]1([C:2]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14])[C:5](=[C:7]([H:15])[H:16])[O:8]1)([N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1]([C:5]([C:4]([C:2]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14])=[O:8])=[C:7]([H:15])[H:16])([N:6]([H:9])[H:10])([H:11])[H:12],58.76537499998008
MR_300604_1,[C:1]([N:5]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[O:8])([O:7][H:9])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:6]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])[O:8]1,64.5534350000267
MR_96182_1,[C:1](/[N:7]=[N:6]/[N:2](/[C:4](=[C:5](\[N:3]([H:9])[H:10])[H:12])[H:11])[H:8])([H:13])([H:14])[H:15]>>[C:1]([N:7]([N:6]1[N:2]([H:8])[C:4]1(/[C:5](=[N:3]/[H:10])[H:12])[H:11])[H:9])([H:13])([H:14])[H:15],38.97277000001466
MR_393789_2,[C:1]([N:2]([H:9])[H:10])([C:4]([C:3](=[O:5])[H:11])([O:6][H:8])[H:12])=[O:7]>>[C:1]([N:2]([H:9])[H:10])([O:5]/[C:3](=[C:4](/[O:6][H:8])[H:12])[H:11])=[O:7],73.05856999999051
MR_624121_1,[C:1]1([O:6][H:9])([H:12])[N:2]([H:10])[C:4](=[O:8])[N:7]1/[C:5](=[N:3]/[H:11])[H:13]>>[C:1]1([O:6][H:9])([H:12])[N:2]([H:10])[C:4](=[O:8])[N:3]([H:11])[C:5]([H:13])=[N:7]1,51.8842100000181
MR_700900_1,[C:1](\[C:2](=[C:3]([N:5]([H:12])[H:13])[N:6]([H:14])[H:15])[N:4]([H:10])[H:11])([O:7][H:9])=[N:8]\[H:16]>>[C:1]1([O:7][H:9])=[C:2]([N:4]([H:10])[H:11])[C:3]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[N:8]1[H:16],49.57438249996443
MR_177274_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:6]([C:4]([H:20])([H:21])[H:22])[H:10])/[C:7]([N:8]([H:11])[H:12])=[C:9](/[C:5]([H:23])([H:24])[H:25])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:7]([N:8]([H:11])[H:12])[C@@:9]([C:5]([H:23])([H:24])[H:25])([N:6]([C:4]([H:20])([H:21])[H:22])[H:10])[H:13],72.76176249999082
MR_171356_1,[C:1](=[C:6]([C:3]([C:2]([H:15])([H:16])[H:17])([C:4](=[O:8])[H:10])/[C:5](=[N:7]\[H:9])[H:11])[H:14])([H:12])[H:13]>>[C:1]([C:4](=[O:8])[H:10])(/[C:6](=[C:3]([C:2]([H:15])([H:16])[H:17])/[C:5](=[N:7]\[H:9])[H:11])[H:14])([H:12])[H:13],46.343384999953656
MR_237809_0,[C:1](/[C:4](=[C:3](\[N:2]([O:5][H:8])[H:11])[O:6][H:9])[O:7][H:10])([H:12])([H:13])[H:14]>>[C:1]([C@@:4]([C@:3]1([O:6][H:9])[N:2]([H:11])[O:5]1)([O:7][H:10])[H:8])([H:12])([H:13])[H:14],57.30643750002528
MR_699023_2,[C:1](=[C:5](\[C:2]([O:7][H:11])([H:14])[H:15])[N:8]([C:4]([C:3]([H:16])([H:17])[H:18])=[O:9])[H:13])(\[O:6][H:10])[H:12]>>[C:1]([C:4]([C:3]([H:16])([H:17])[H:18])=[O:9])(/[C:5]([C:2]([O:7][H:11])([H:14])[H:15])=[N:8]\[H:13])([O:6][H:10])[H:12],64.10979250000537
MR_9357_2,[C:1]([C:2](=[O:6])[H:13])([C:3]([O:5][H:8])([O:7][H:9])[H:14])([N:4]([H:11])[H:12])[H:10]>>[C:1]([C:2]([O:6][H:9])([H:13])[H:14])([C:3]([O:5][H:8])=[O:7])([N:4]([H:11])[H:12])[H:10],53.04508500001205
MR_110259_0,[C:1]1([C:5]([H:21])([H:22])[H:23])([H:11])[C:8]([N:6]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])([N:7]([C:4]([H:18])([H:19])[H:20])[H:10])[O:9]1>>[C:1]([C:5]([H:21])([H:22])[H:23])([N:6]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])([C:8]([N:7]([C:4]([H:18])([H:19])[H:20])[H:10])=[O:9])[H:11],64.44236750002176
MR_668851_1,[C:1]([C:4]1[N:3]([C:6](=[O:7])[H:8])[C:5]1[C:2]([H:11])([H:12])[H:14])([H:9])([H:10])[H:13]>>[C:1]([C@@:4]1([C:6](=[O:7])[H:8])[N:3][C:5]1[C:2]([H:11])([H:12])[H:14])([H:9])([H:10])[H:13],20.197342499977964
